US04367238
Ozone gas was introduced into a solution of 2-(1-propenyl)-4-(2-chlorophenoxy)phenol (14.5 g) in a mixture of acetic acid (10 ml) and ethyl acetate (150 ml) with stirring at 2°-7° C. for an hour. After removing of the excess of ozone gas and addition of aqueous solution of sodium dithionite, the organic layer was separated, washed with saturated aqueous sodium bicarbonate and water, dried and evaporated. The residue was purified by column chromatography (silical gel, benzene) to give oily 2-hydroxy-5-(2-chlorophenoxy)benzaldehyde (10.4 g).

reactant | Ozone | O=[O+][O-] | O3
reactant | 2-(1-propenyl)-4-(2-chlorophenoxy)phenol | 14.5 g | C(=CC)C1=C(C=CC(=C1)OC1=C(C=CC=C1)Cl)O | C15H13ClO2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 2-hydroxy-5-(2-chlorophenoxy)benzaldehyde | 10.4 g | OC1=C(C=O)C=C(C=C1)OC1=C(C=CC=C1)Cl | C13H9ClO3
